US08058444B2
2-(4-(5-Iodo-isoxazol-3-yl methyl)-benzyloxy)-pyridine
To a solution of 2-(4-(5-tributylstannyl-isoxazol-3-yl methyl)-benzyloxy)-pyridine (5.1 g) in tetrahydrofuran (15 mL) was added iodine (2.5 g) at 0° C. This mixture was stirred for 20 minutes at this temperature. To this mixture was added an aqueous solution of 10% sodium thiosulfate and ethyl acetate. The organic layer thereof was separated, washed with saturated sodium chloride water, dried over anhydrous magnesium sulfate and then filtered. The filtrate thereof was concentrated, and the residue thereof was purified by silica gel column chromatography (heptane:ethyl acetate=10:1 to 4:1) to obtain the title compound (2.4 g).

reactant | 2-(4-(5-tributylstannyl-isoxazol-3-yl methyl)-benzyloxy)-pyridine | 5.1 g | C(CCC)[Sn](C1=CC(=NO1)CC1=CC=C(COC2=NC=CC=C2)C=C1)(CCCC)CCCC
reactant | iodine | 2.5 g | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(4-(5-Iodo-isoxazol-3-yl methyl)-benzyloxy)-pyridine | 2.4 g | IC1=CC(=NO1)CC1=CC=C(COC2=NC=CC=C2)C=C1 | C16H13IN2O2
